US06245790B1
To a solution of (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2- cyclohexen-1-yl]methyl}benzoic acid (0.3 g) in a tetrahydrofuran (10 ml) were added isobutyl chloroformate (0.15 ml) and triethylamine (0.2 ml) at 0° C. under N2. After being stirred for 30 minutes, NH3 (5 ml, 4M solution in methanol) was added to the mixture. After being stirred for 30 minutes, the solvent was removed in vacuo. The residue was partitioned between ethyl acetate and lN-NaOH and the organic layer was washed with brine. The dried solvent was evaporated in vacuo. The residue was purified by chromatography on silica gel to give and the obtained residue was purified by chromatography on silica gel to give (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}- benzamide (0.03 g).

reactant | (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2- cyclohexen-1-yl]methyl}benzoic acid | 0.3 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(C(=O)O)C=CC1 | C29H25NO3
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | isobutyl chloroformate | 0.15 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NH3 | 4M, 5 ml | N | H3N
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | (S)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}- benzamide | 0.03 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1[C@@H](CCCC1)CC=1C=C(C(=O)N)C=CC1 | C29H26N2O2
